US07407961B2
5-Bromo-1-isopropyl-2(1H)-pyridone (50 g) was dissolved in n-butyl vinyl ether (250 ml). To the solution were added 1,3-bis(diphenylphosphino)propane (6.3 g) and powdered K2CO3 (38.2 g) and Pd(OAc)2 (1.56 g) at 25° C. The mixture was heated at 90-95° C. with stirring for 8 hours. The reaction mixture was cooled to 25-30° C. To the cooled mixture was added CHCl3 (125 ml). The precipitated salt was removed by filtration and washed with CHCl3 (125 ml). Evaporation of solvent in the filtrate in vacuo gave oily residue. The residue was dissolved in CHCl3 (125 ml). To the solution was added 1N HCl (125 ml). The reaction mixture was stirred at 25-30° C. for 1 hour. The organic layer was separated. The aqueous layer was extracted with CHCl3 (100 ml). The combined organic layer was washed with 10% aq. NaHCO3 (50 ml) and dried over MgSO4 (25 g) and silica gel (25 g). MgSO4 and silica gel were removed by filtration and washed with CHCl3. Evaporation of solvent in the filtrate in vacuo gave oily residue, which was crystallized from n-hexane (500 ml). The crystal was collected by filtration and dried in vacuo at 40° C., to give 5-acetyl-1-isopropyl-2(1H)-pyridone (32.35 g).

reactant | 5-Bromo-1-isopropyl-2(1H)-pyridone | 50 g | BrC=1C=CC(N(C1)C(C)C)=O | C8H10BrNO
reactant | K2CO3 | 38.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N, 125 ml | Cl | ClH
reactant | n-butyl vinyl ether | 250 ml | C(=C)OCCCC | C6H12O
solvent | CHCl3 | 125 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd(OAc)2 | 1.56 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,3-bis(diphenylphosphino)propane | 6.3 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | CHCl3 | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-acetyl-1-isopropyl-2(1H)-pyridone | 32.35 g | C(C)(=O)C=1C=CC(N(C1)C(C)C)=O | C10H13NO2
